US08748613B2
(R)-Quinuclidin-3-yl 2-(3-fluorophenyl)-2-(piperidin-1-yl)acetate (164 mg, 0.47 mmol) and 2-bromo-1-phenylethanone (104 mg, 0.52 mmol) were dissolved in acetonitrile (5 ml) and stirred at room temperature for 16 hours. The solvent was evaporated and the crude was triturated with Et2O, filtered under suction and washed with EtOAc and Et2O (1/1) to obtain (3R)-3-(2-(3-fluorophenyl)-2-(piperidin-1-yl)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide (180.5 mg; 69.9% yield) as a white solid.

reactant | (R)-Quinuclidin-3-yl 2-(3-fluorophenyl)-2-(piperidin-1-yl)acetate | 0.47 mmol, 164 mg | FC=1C=C(C=CC1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCCC2 | C20H27FN2O2
reactant | 2-bromo-1-phenylethanone | 0.52 mmol, 104 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (3R)-3-(2-(3-fluorophenyl)-2-(piperidin-1-yl)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide | 180.5 mg, 69.9% yield | [Br-].FC=1C=C(C=CC1)C(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)N2CCCCC2 | InChI=1S/C28H34FN2O3.BrH/c29-24-11-7-10-23(18-24)27(30-14-5-2-6-15-30)28(33)34-26-20-31(16-12-22(26)13-17-31)19-25(32)21-8-3-1-4-9-21;/h1,3-4,7-11,18,22,26-27H,2,5-6,12-17,19-20H2;1H/q+1;/p-1/t22?,26-,27?,31?;/m0./s1
